US07902252B2
2.77. Synthesis of 4-(2,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (45)
The title compound was synthesized from methyl 4-(2,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.062 g, 0.213 mmol) and lithium hydroxide (0.045 g, 1.07 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford the title compound. 41 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.12 (m, 1H), 2.56 (m, 1H), 2.65 (m, 2H), 2.78 (d, J=7.37 Hz, 2H), 3.20-3.30 (m, 1H), 6.29 (s, 1H), 6.81-6.95 (m, 2H), 7.22 (m, 1H); 19F NMR δ ppm −116.13 (m), −116.30 (m); LCMS-MS (ESI−) 276.0 (M−H); HPLC (UV=99.0%), (ELSD=100%).

reactant | methyl 4-(2,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.213 mmol, 0.062 g | FC1=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC(=C1)F | C16H15F2NO2
reactant | lithium hydroxide | 1.07 mmol, 0.045 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(2,4-difluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC1=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC(=C1)F | C15H13F2NO2
